US07902401B2
(2R)-2-Amino-3-(difluoromethoxy)propanoic acid (380 mg, 2.45 mmol) was stirred with sodium bicarbonate (411.6 mg. 4.90 mmol) and di-tert-butyl dicarbonate (902 mg, 3.68 mmol) in water (6 mL) and THF (2 mL) at room temperature overnight. The reaction mixture was diluted with water and extracted with ether to remove excess di-tert-butyl dicarbonate. The aqueous layer was acidified with 1N HCl to pH2 and extracted with ethyl acetate, dried over magnesium sulphate and concentrated to give (2R)-2-[(tert-butoxycarbonyl) amino]-3-(difluoromethoxy)propanoic acid (515 mg, 82.3%) as a colorless sticky oil. 1H NMR (300 MHz, CDCl3): δ(ppm) 6.23 (wt, 1H), 5.35 (d, 1H), 4.60 (m, 1H), 4.33 (m, 1H), 4.17 (m, 1H) and 1.51 (s, 9H).

reactant | (2R)-2-Amino-3-(difluoromethoxy)propanoic acid | 2.45 mmol, 380 mg | N[C@@H](C(=O)O)COC(F)F | C4H7F2NO3
reactant | sodium bicarbonate | 4.90 mmol, 411.6 mg | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 3.68 mmol, 902 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 6 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (2R)-2-[(tert-butoxycarbonyl) amino]-3-(difluoromethoxy)propanoic acid | 515 mg, 82.3% | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)COC(F)F | C9H15F2NO5
